US06426396B2
In a glove box, 18 mg of bisallyl nickel bromide (the catalyst B), 0.58 g of methylaluminoxane, and 15 g of toluene were mixed at room temperature under an argon atmosphere to adjust a catalyst solution. In the meantime, 8 g of 1,3-cyclohexadiene and 10 g of butadiene, as monomers, were dissolved into 15 g of toluene at room temperature under an argon atmosphere in a glove box. While this solution was kept to room temperature and was stirred, the total amount thereof was added to the total amount of the above-mentioned catalyst solution. Polymerization advanced promptly, and the reaction finished within 30 minutes. A slurry of the produced polymer was taken out from the glove box and added to a great deal of methanol acidified with hydrochloric acid to precipitate and isolate the polymer. Methanol was then removed by filtration. The resultant was vacuum-dried at room temperature for 24 hours to obtain 16 g of a cyclohexadiene-butadiene copolymer.

reactant | toluene | 15 g | C1(=CC=CC=C1)C | C7H8
reactant | butadiene | 10 g | C=CC=C | C4H6
reactant | toluene | 15 g | C1(=CC=CC=C1)C | C7H8
reactant | methanol | CO | CH4O
reactant | hydrochloric acid | Cl | ClH
solvent | 1,3-cyclohexadiene | 8 g | C1=CC=CCC1 | C6H8
catalyst | bisallyl nickel bromide | 18 mg | C(C=C)[Ni](CC=C)Br
product | cyclohexadiene butadiene | 16 g | C1=CC=CCC1.C=CC=C | InChI=1S/C6H8.C4H6/c1-2-4-6-5-3-1;1-3-4-2/h1-4H,5-6H2;3-4H,1-2H2
